US07989445B2
6-(4-chlorophenyl)-3-{2-[4-(1-piperidin-1-ylethyl)phenyl]ethyl}thieno[3,2-d]pyrimidin-4(3H)-one
A mixture of methyl 5-(4-chlorophenyl)-3-(dimethylaminomethyleneamino)thiophene-2-carboxylate (0.2 g), 2-[4-(1-piperidin-1-ylethyl)phenyl]ethanamine dihydrochloride (0.19 g), N,N-diisopropylethylamine (0.20 g) and ethanol (4 ml) were stirred at 70° C. for 3 hr. The reaction mixture was allowed to cool, ethyl acetate was added, and the precipitate was collected by filtration to give the title compound (186 mg) as a colorless powder.

reactant | methyl 5-(4-chlorophenyl)-3-(dimethylaminomethyleneamino)thiophene-2-carboxylate | 0.2 g | ClC1=CC=C(C=C1)C1=CC(=C(S1)C(=O)OC)N=CN(C)C | C15H15ClN2O2S
reactant | 2-[4-(1-piperidin-1-ylethyl)phenyl]ethanamine dihydrochloride | 0.19 g | Cl.Cl.N1(CCCCC1)C(C)C1=CC=C(C=C1)CCN
reactant | N,N-diisopropylethylamine | 0.20 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethanol | 4 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(4-chlorophenyl)-3-{2-[4-(1-piperidin-1-ylethyl)phenyl]ethyl}thieno[3,2-d]pyrimidin-4(3H)-one | 186 mg | ClC1=CC=C(C=C1)C1=CC=2N=CN(C(C2S1)=O)CCC1=CC=C(C=C1)C(C)N1CCCCC1 | C27H28ClN3OS
